US07411072B2
N-{3-[1-(2-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-2-methoxy-ethyl]-phenyl}-methanesulfonamide
Following procedures essentially as described in Example 219, mix 5-(1-bromo-2-methoxy-ethylidene)-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (1 equivalent), N-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide (1.25 equivalents), 2N Na2CO3 (2 equivalents) and tetrakistriphenylphosphine palladium (0.65 equivalents)in a suitable solvent. Purify the product by silica gel chromatography to obtain a 62% yield of the title compound.

reactant | 5-(1-bromo-2-methoxy-ethylidene)-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1 equivalent | BrC(COC)=C1C2=C(CCC3=C1C=CC(=C3)Cl)C=CC=C2 | C18H16BrClO
reactant | N-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 1.25 equivalents | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NS(=O)(=O)C)C | C13H20BNO4S
reactant | Na2CO3 | 2N, 2 equivalents | C(=O)([O-])[O-].[Na+].[Na+]
product | N-{3-[1-(2-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-2-methoxy-ethyl]-phenyl}-methanesulfonamide | 62% yield | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=C(COC)C=3C=C(C=CC3)NS(=O)(=O)C)C=C1 | C25H24ClNO3S
